US06339099B1
A solution of 5-fluoro-2-nitrophenol (2.03 g) and 2-methylimidazole (2.14 g) in CH3CN (50 mL) was stirred at reflux under N2 for 16 h. The solvent was removed and the residue was purified by chromatography on silica gel with 0-10% MeOH in CH2Cl2 to give 2.21 g of 5-(2′-methylimdazol-1-yl)-2-nitrophenol. ESI mass spectrum z (rel. intensity) 220.1 (M+H, 100).

reactant | 5-fluoro-2-nitrophenol | 2.03 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | 2-methylimidazole | 2.14 g | CC=1NC=CN1 | C4H6N2
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 5-(2′-methylimdazol-1-yl)-2-nitrophenol | 2.21 g | CC=1N(C=CN1)C=1C=CC(=C(C1)O)[N+](=O)[O-] | C10H9N3O3
